US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 3,5-difluorobenzeneboronic acid were coupled in the same way as in Example 30 to give 2-[8-fluoro-3-(2,3′,5′-trifluorobiphenyl-5-yl)imidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (5 mg, 3%): m/z (ES+) 401 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 3,5-difluorobenzeneboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 2-[8-fluoro-3-(2,3′,5′-trifluorobiphenyl-5-yl)imidazo[1,2-α]pyridin-7-yl]propan-2-ol | 5 mg, 3% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C=2C=CC(=C(C2)C2=CC(=CC(=C2)F)F)F | C22H16F4N2O
